US04791225
N-(3,4-difluorophenyl)acetamide
To 3,4-difluoroaniline (28.2 g) was added acetic anhydride (30 ml) slowly. After allowed to stand for 30 minutes, the reaction mixture was poured into ice water (100 ml). The resulting precipitate was collected by filtration and washed with water sufficiently to give the title compound (34.7 g) as colorless needles, mp 127°-127.5° C.

reactant | 3,4-difluoroaniline | 28.2 g | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-(3,4-difluorophenyl)acetamide | 34.7 g | FC=1C=C(C=CC1F)NC(C)=O | C8H7F2NO
